US08008525B2
Ethyl 3,5-difluoro-4-hydroxybenzenepropanoate
To a solution of ethyl 3,5-difluoro-4-(methoxymethoxy)benzenepropanoate (2.3 g, 8.4 mmol) in ethanol (12 mL) was added hydrochloric acid (0.5 mL), and the mixture was stirred at 50° C. for 1 hour. After the reaction solution was returned to room temperature, water was added thereto, and the reaction mixture was extracted with ethyl acetate. The extract was washed with water, and then concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane/ethyl acetate=9:1 to 1:1) to give the title compound (1.7 g, yield 88%).

reactant | ethyl 3,5-difluoro-4-(methoxymethoxy)benzenepropanoate | 8.4 mmol, 2.3 g | FC=1C=C(C=C(C1OCOC)F)CCC(=O)OCC | C13H16F2O4
reactant | hydrochloric acid | 0.5 mL | Cl | ClH
reactant | water | O | H2O
solvent | ethanol | 12 mL | C(C)O | C2H6O
product | Ethyl 3,5-difluoro-4-hydroxybenzenepropanoate | 1.7 g, yield 88% | FC=1C=C(C=C(C1O)F)CCC(=O)OCC | C11H12F2O3
